Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Presyncope, tachycardia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx of HTN, BPH, and chronic ankle pain who presented with 
nausea, vomiting and diarrhea since yesterday. On ___ drank 
at least ___ shots of his wife's spicy tequila as well as a few 
beers and wine. His symptoms started the next day. His cousin 
also had the tequila and experienced similar symptoms. This 
morning he was driving to work when he felt shaking, 
lightheadedness/dizziness, bilateral arm tingling, and his 
vision shrinking. This prompted visit to the ED for evaluation. 
He also endorsed palpitations and feeling of anxiety. He denies 
known fevers, chest pain, abd pain or SOB. His last drink was on 
___. He denies history of withdrawal symptoms. 

- In the ED, initial vital signs were: 98.3 ___ 18 
100%RA 
- Exam notable for tachycardia, normal heart sounds  
- Labs were notable for anion gap metabolic acidosis, serum EtOH 
negative, normal CBC, UA with few bacteria   
- Patient was given:
___ 07:08 IV Ondansetron 4 mg  
___ 07:08 IVF 1000 mL NS 1000 mL  
___ 08:52 IVF 1000 mL NS 1000 mL   
___ 09:07 PO/NG Diazepam 10 mg   
___ 10:03 IV Ondansetron 4 mg  
___ 11:15 PO/NG Diazepam 10 mg 
___ 11:30 IVF 1000 mL NS 1000 mL 
  
On Transfer Vitals were: 98.2 111 142/96 18 97%RA

On the floor patient endorses mild nausea, but denies 
lightheadedness/dizziness, chest palpitations, sweating, 
hallucinations, or tactile disturbances.
 
Past Medical History:
Hypertension
Benign prostate hypertrophy
Chronic ankle pain 
 
Social History:
___
Family History:
- Father: intestinal cancer
- Mother: colon cancer
 
Physical Exam:
ON ADMISSION:
Vitals: 98.3 150/93 106 (repeat 88) 18 99RA     
General: Well appearing, in NAD  
HEENT: PERRL, sclera anicteric, MMM, oropharynx clear, no 
diaphoresis  
Lymph: No cervical lymphadenopathy  
CV: RRR, no m/r/g 
Lungs: CTAB without crackles, wheezing or rhonchi 
Abdomen: Distended but soft, nontender, no hepatosplenomegaly 
GU: No foley 
Ext: WWP, distal pulses palpable bilaterally, no edema 
Neuro: AAOx3, grossly non-focal, mild tremor without asterixis
Skin: Plethoric, no jaundice 

ON DISCHARGE:
Vitals: 98.6 120s-140s/80s-100s ___ 96-99RA     
General: Well appearing, in NAD  
HEENT: PERRL, sclera anicteric, MMM, oropharynx clear, no 
diaphoresis  
Lymph: No cervical lymphadenopathy  
CV: RRR, no m/r/g 
Lungs: CTAB without crackles, wheezing or rhonchi 
Abdomen: Distended but soft, nontender, no hepatosplenomegaly 
GU: No foley 
Ext: WWP, distal pulses palpable bilaterally, no edema 
Neuro: AAOx3, grossly non-focal, mild tremor without asterixis
Skin: Plethoric, no jaundice 
 
Pertinent Results:
ON ADMISSION:
___ 07:09AM BLOOD WBC-7.5 RBC-5.39 Hgb-17.2 Hct-47.5 MCV-88 
MCH-31.9 MCHC-36.2 RDW-13.3 RDWSD-42.5 Plt ___
___ 07:09AM BLOOD Neuts-60.2 ___ Monos-10.6 Eos-1.6 
Baso-1.2* Im ___ AbsNeut-4.50 AbsLymp-1.95 AbsMono-0.79 
AbsEos-0.12 AbsBaso-0.09*
___ 07:09AM BLOOD Plt ___
___ 07:09AM BLOOD Glucose-110* UreaN-16 Creat-1.0 Na-139 
K-3.3 Cl-100 HCO3-18* AnGap-24*
___ 07:09AM BLOOD Osmolal-284
___ 07:09AM BLOOD Ethanol-NEG
___ UA unremarkable

ON DISCHARGE:
___ 12:02AM BLOOD Lactate-1.7
___ 07:10AM BLOOD WBC-4.4 RBC-4.80 Hgb-15.1 Hct-44.0 MCV-92 
MCH-31.5 MCHC-34.3 RDW-13.2 RDWSD-43.9 Plt ___
___ 07:10AM BLOOD Glucose-112* UreaN-10 Creat-0.8 Na-138 
K-3.3 Cl-102 HCO3-23 AnGap-16
___ 07:10AM BLOOD ALT-61* AST-72* LD(LDH)-185 AlkPhos-88 
TotBili-1.5
___ 07:10AM BLOOD Albumin-3.9 Calcium-8.5 Phos-3.4 Mg-1.8

OTHER STUDIES:
___ CXR: No acute process

 
Brief Hospital Course:
___ hx of HTN, BPH, and chronic ankle pain who presented with 
n/v, diarrhea, tachycardia, bilateral arm tingling, anxiety and 
presyncopal symptoms. In the ED he was given 3L NS, IV Zofran, 
and IV diazepam and admitted to the medicine floor for 
monitoring for alcohol withdrawal. His last drink was 2 days 
prior to admission and consisted of multiple shots of spicy 
tequila, wine and beer. His cousin had experienced similar 
symptoms.

On the floor, patient was monitored on CIWA protocol and scored 
only 2 for mild tremor. He did not require Ativan or Zofran, and 
on day of discharge was feeling like himself without nausea, 
lightheadedness, dizziness, anxiety, palpitations, sweating or 
tactile disturbances. His BP stabilized with home medication 
regimen and he was no longer tachycardic. Given quick resolution 
of symptoms and low scoring on CIWA, his symptoms were thought 
to be ___ volume depletion from possible viral gastroenteritis. 

Patient was also noted to have anion gap metabolic acidosis on 
admission, thought to be mixed from diarrhea as well as 
transient lactic acidosis from increased metabolic activity 
(given tremors, tachycardia, plethora). His repeat chem panel on 
day of discharge no longer showed a metabolic acidosis. 

CHRONIC ISSUES: 
#BPH: Continued home tamsulosin
#Chronic ankle pain: From falling off ladder. Continued home 
amitriptyline  
#HTN: Continued home losartan

TRANSITIONAL ISSUES:
- No changes were made to patient's medication regimen
- Patient was monitored on CIWA but scored only 2 for tremor, 
did not require Ativan or Zofran 
- Patient shared a hospital room with a patient diagnosed with 
the flu. Risk / benefit of prophylactic dosing of neurimidase 
inhbitors discussed. He opted to complete 7 day course of 
treatment with oseltamivir
- Patient's AST and ALT were mildly elevated, non-cholestatic 
and non-alcoholic pattern. Possibly NAFLD. Please continue to 
monitor
- Patient's K during admission was low at 3.3, asymptomatic. 
Please continue to monitor and consider daily repletion as 
appropriate
- Please continue to monitor BP and HR and adjust medications as 
necessary
- Code status: Full
- Contact: ___ (wife) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Tamsulosin 0.4 mg PO QHS 
3. Amitriptyline 75 mg PO QHS 

 
Discharge Medications:
1. Amitriptyline 75 mg PO QHS 
2. Tamsulosin 0.4 mg PO QHS 
3. Losartan Potassium 100 mg PO DAILY 
4. OSELTAMivir 75 mg PO Q24H Duration: 7 Days 
RX *oseltamivir [Tamiflu] 75 mg 1 capsule(s) by mouth daily Disp 
#*7 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Viral gastroenteritis

SECONDARY:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you were experiencing nausea, 
vomiting, diarrhea, dizziness and were found to have a fast 
heart rate. Your symptoms were thought to be due to lack of 
fluid in your system from vomiting and diarrhea, likely 
triggered by a viral gastroenteritis. You were given IV fluids 
and anti-nausea medications with resolution of your symptoms. 
Alcohol withdrawal was considered as it can have similar 
symptoms. However, you were monitored and did not experience 
signs of alcohol withdrawal. 

Please continue taking your medications as prescribed. You also 
have a post-hospitalization follow-up appointment with your PCP, 
___.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___